US04806549
Ethyl 2-hexanoyl-3-(2-methoxyphenylamino)acrylate (18 g, 0.056 mol) was added in portions to boiling diphenyl ether (200 ml) and the mixture heated under reflux for 1 hour. After cooling, the mixture was diluted with petroleum ether, filtered and the solid washed with petroleum ether to give 3-hexanoyl-8-methoxy-4(1H)-quinolone (5.2 g, 33.8%), m.p. 169°-71° C.

reactant | Ethyl 2-hexanoyl-3-(2-methoxyphenylamino)acrylate | 0.056 mol, 18 g | C(CCCCC)(=O)C(C(=O)OCC)=CNC1=C(C=CC=C1)OC | C18H25NO4
solvent | diphenyl ether | 200 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 3-hexanoyl-8-methoxy-4(1H)-quinolone | 5.2 g, 33.8% | C(CCCCC)(=O)C1=CNC2=C(C=CC=C2C1=O)OC | C16H19NO3
